*
L1 N032 0 100m
L2 N032 0 200m
L3 N032 0 150m
L4 N032 0 50m
L5 N032 0 100m
L6 N032 0 150m
L7 N032 0 50m
L8 N032 0 50m
L9 N032 0 150m
L10 N032 0 100m
R1 0 N032 100
V1 N001 0 SINE(0 10 1k)
L11 N032 N031 100m
L12 N032 N031 200m
L13 N032 N031 150m
L14 N032 N031 50m
L15 N032 N031 100m
L16 N032 N031 150m
L17 N032 N031 50m
L18 N032 N031 50m
L19 N032 N031 150m
L20 N032 N031 100m
R2 N031 N032 100
L21 N030 N031 100m
L22 N030 N031 200m
L23 N030 N031 150m
L24 N030 N031 50m
L25 N030 N031 100m
L26 N030 N031 150m
L27 N030 N031 50m
L28 N030 N031 50m
L29 N030 N031 150m
L30 N030 N031 100m
R3 N031 N030 100
L31 N030 N029 100m
L32 N030 N029 200m
L33 N030 N029 150m
L34 N030 N029 50m
L35 N030 N029 100m
L36 N030 N029 150m
L37 N030 N029 50m
L38 N030 N029 50m
L39 N030 N029 150m
L40 N030 N029 100m
R4 N029 N030 100
L41 N028 N029 100m
L42 N028 N029 200m
L43 N028 N029 150m
L44 N028 N029 50m
L45 N028 N029 100m
L46 N028 N029 150m
L47 N028 N029 50m
L48 N028 N029 50m
L49 N028 N029 150m
L50 N028 N029 100m
R5 N029 N028 100
L51 N028 N027 100m
L52 N028 N027 200m
L53 N028 N027 150m
L54 N028 N027 50m
L55 N028 N027 100m
L56 N028 N027 150m
L57 N028 N027 50m
L58 N028 N027 50m
L59 N028 N027 150m
L60 N028 N027 100m
R6 N027 N028 100
L61 N026 N027 100m
L62 N026 N027 200m
L63 N026 N027 150m
L64 N026 N027 50m
L65 N026 N027 100m
L66 N026 N027 150m
L67 N026 N027 50m
L68 N026 N027 50m
L69 N026 N027 150m
L70 N026 N027 100m
R7 N027 N026 100
L71 N026 N025 100m
L72 N026 N025 200m
L73 N026 N025 150m
L74 N026 N025 50m
L75 N026 N025 100m
L76 N026 N025 150m
L77 N026 N025 50m
L78 N026 N025 50m
L79 N026 N025 150m
L80 N026 N025 100m
R8 N025 N026 100
L81 N024 N025 100m
L82 N024 N025 200m
L83 N024 N025 150m
L84 N024 N025 50m
L85 N024 N025 100m
L86 N024 N025 150m
L87 N024 N025 50m
L88 N024 N025 50m
L89 N024 N025 150m
L90 N024 N025 100m
R9 N025 N024 100
L91 N024 N023 100m
L92 N024 N023 200m
L93 N024 N023 150m
L94 N024 N023 50m
L95 N024 N023 100m
L96 N024 N023 150m
L97 N024 N023 50m
L98 N024 N023 50m
L99 N024 N023 150m
L100 N024 N023 100m
R10 N023 N024 100
L101 N022 N023 100m
L102 N022 N023 200m
L103 N022 N023 150m
L104 N022 N023 50m
L105 N022 N023 100m
L106 N022 N023 150m
L107 N022 N023 50m
L108 N022 N023 50m
L109 N022 N023 150m
L110 N022 N023 100m
R11 N023 N022 100
L111 N022 N021 100m
L112 N022 N021 200m
L113 N022 N021 150m
L114 N022 N021 50m
L115 N022 N021 100m
L116 N022 N021 150m
L117 N022 N021 50m
L118 N022 N021 50m
L119 N022 N021 150m
L120 N022 N021 100m
R12 N021 N022 100
L121 N020 N021 100m
L122 N020 N021 200m
L123 N020 N021 150m
L124 N020 N021 50m
L125 N020 N021 100m
L126 N020 N021 150m
L127 N020 N021 50m
L128 N020 N021 50m
L129 N020 N021 150m
L130 N020 N021 100m
R13 N021 N020 100
L131 N020 N019 100m
L132 N020 N019 200m
L133 N020 N019 150m
L134 N020 N019 50m
L135 N020 N019 100m
L136 N020 N019 150m
L137 N020 N019 50m
L138 N020 N019 50m
L139 N020 N019 150m
L140 N020 N019 100m
R14 N019 N020 100
L141 N018 N019 100m
L142 N018 N019 200m
L143 N018 N019 150m
L144 N018 N019 50m
L145 N018 N019 100m
L146 N018 N019 150m
L147 N018 N019 50m
L148 N018 N019 50m
L149 N018 N019 150m
L150 N018 N019 100m
R15 N019 N018 100
L151 N018 N017 100m
L152 N018 N017 200m
L153 N018 N017 150m
L154 N018 N017 50m
L155 N018 N017 100m
L156 N018 N017 150m
L157 N018 N017 50m
L158 N018 N017 50m
L159 N018 N017 150m
L160 N018 N017 100m
R16 N017 N018 100
L161 N016 N017 100m
L162 N016 N017 200m
L163 N016 N017 150m
L164 N016 N017 50m
L165 N016 N017 100m
L166 N016 N017 150m
L167 N016 N017 50m
L168 N016 N017 50m
L169 N016 N017 150m
L170 N016 N017 100m
R17 N017 N016 100
L171 N016 N015 100m
L172 N016 N015 200m
L173 N016 N015 150m
L174 N016 N015 50m
L175 N016 N015 100m
L176 N016 N015 150m
L177 N016 N015 50m
L178 N016 N015 50m
L179 N016 N015 150m
L180 N016 N015 100m
R18 N015 N016 100
L181 N014 N015 100m
L182 N014 N015 200m
L183 N014 N015 150m
L184 N014 N015 50m
L185 N014 N015 100m
L186 N014 N015 150m
L187 N014 N015 50m
L188 N014 N015 50m
L189 N014 N015 150m
L190 N014 N015 100m
R19 N015 N014 100
L191 N014 N013 100m
L192 N014 N013 200m
L193 N014 N013 150m
L194 N014 N013 50m
L195 N014 N013 100m
L196 N014 N013 150m
L197 N014 N013 50m
L198 N014 N013 50m
L199 N014 N013 150m
L200 N014 N013 100m
R20 N013 N014 100
L201 N012 N013 100m
L202 N012 N013 200m
L203 N012 N013 150m
L204 N012 N013 50m
L205 N012 N013 100m
L206 N012 N013 150m
L207 N012 N013 50m
L208 N012 N013 50m
L209 N012 N013 150m
L210 N012 N013 100m
R21 N013 N012 100
L211 N012 N011 100m
L212 N012 N011 200m
L213 N012 N011 150m
L214 N012 N011 50m
L215 N012 N011 100m
L216 N012 N011 150m
L217 N012 N011 50m
L218 N012 N011 50m
L219 N012 N011 150m
L220 N012 N011 100m
R22 N011 N012 100
L221 N010 N011 100m
L222 N010 N011 200m
L223 N010 N011 150m
L224 N010 N011 50m
L225 N010 N011 100m
L226 N010 N011 150m
L227 N010 N011 50m
L228 N010 N011 50m
L229 N010 N011 150m
L230 N010 N011 100m
R23 N011 N010 100
L231 N010 N009 100m
L232 N010 N009 200m
L233 N010 N009 150m
L234 N010 N009 50m
L235 N010 N009 100m
L236 N010 N009 150m
L237 N010 N009 50m
L238 N010 N009 50m
L239 N010 N009 150m
L240 N010 N009 100m
R24 N009 N010 100
L241 N008 N009 100m
L242 N008 N009 200m
L243 N008 N009 150m
L244 N008 N009 50m
L245 N008 N009 100m
L246 N008 N009 150m
L247 N008 N009 50m
L248 N008 N009 50m
L249 N008 N009 150m
L250 N008 N009 100m
R25 N009 N008 100
L251 N008 N007 100m
L252 N008 N007 200m
L253 N008 N007 150m
L254 N008 N007 50m
L255 N008 N007 100m
L256 N008 N007 150m
L257 N008 N007 50m
L258 N008 N007 50m
L259 N008 N007 150m
L260 N008 N007 100m
R26 N007 N008 100
L261 N006 N007 100m
L262 N006 N007 200m
L263 N006 N007 150m
L264 N006 N007 50m
L265 N006 N007 100m
L266 N006 N007 150m
L267 N006 N007 50m
L268 N006 N007 50m
L269 N006 N007 150m
L270 N006 N007 100m
R27 N007 N006 100
L271 N006 N005 100m
L272 N006 N005 200m
L273 N006 N005 150m
L274 N006 N005 50m
L275 N006 N005 100m
L276 N006 N005 150m
L277 N006 N005 50m
L278 N006 N005 50m
L279 N006 N005 150m
L280 N006 N005 100m
R28 N005 N006 100
L281 N004 N005 100m
L282 N004 N005 200m
L283 N004 N005 150m
L284 N004 N005 50m
L285 N004 N005 100m
L286 N004 N005 150m
L287 N004 N005 50m
L288 N004 N005 50m
L289 N004 N005 150m
L290 N004 N005 100m
R29 N005 N004 100
L291 N004 N003 100m
L292 N004 N003 200m
L293 N004 N003 150m
L294 N004 N003 50m
L295 N004 N003 100m
L296 N004 N003 150m
L297 N004 N003 50m
L298 N004 N003 50m
L299 N004 N003 150m
L300 N004 N003 100m
R30 N003 N004 100
L301 N002 N003 100m
L302 N002 N003 200m
L303 N002 N003 150m
L304 N002 N003 50m
L305 N002 N003 100m
L306 N002 N003 150m
L307 N002 N003 50m
L308 N002 N003 50m
L309 N002 N003 150m
L310 N002 N003 100m
R31 N003 N002 100
L311 N002 N001 100m
L312 N002 N001 200m
L313 N002 N001 150m
L314 N002 N001 50m
L315 N002 N001 100m
L316 N002 N001 150m
L317 N002 N001 50m
L318 N002 N001 50m
L319 N002 N001 150m
L320 N002 N001 100m
R32 N001 N002 100
.tran 0 1m 0 1u
.backanno
.end
